2191-07-04 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   2 episodes of 20cc bloody BMs
   hemodynamically stable, good UOP
   repeat hct stable, s/p 1 uPRBC tx in ER
   C diff ordered
   Cipro / Flagyl started for low grade temp 100.2
   Allergies:
   Cortisone
   Confusion/Delir
   Prednisone
   psychosis;
   Adhesive Tape (Topical)
   Rash; skin irri
   Last dose of Antibiotics:
   Ciprofloxacin - [**2191-7-4**] 04:00 AM
   Metronidazole - [**2191-7-4**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: Abdominal pain, Nausea, Diarrhea, R and L lower
   quadrant cramping type abdominal pain
   Flowsheet Data as of  [**2191-7-4**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.4
C (99.4
   HR: 89 (80 - 116) bpm
   BP: 109/63(74) {107/63(74) - 147/100(109)} mmHg
   RR: 22 (15 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,960 mL
                  PO:
                  TF:
   IVF:
                                                                  1,960 mL
   Blood products:
   Total out:
                                                                    910 mL
                                                                  1,245 mL
   Urine:
                                                                    660 mL
                                                                    975 mL
   NG:
   Stool:
                                                                    250 mL
                                                                    270 mL
   Drains:
   Balance:
                                                                  1,050 mL
                                                                 -1,245 mL
   Respiratory support
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: JVP 6cm
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: RLQ tenderness, voluntary guarding, no rebound
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   127 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.7 mEq/L
   6 mg/dL
   108 mEq/L
   138 mEq/L
   33.8 %
        [image002.jpg]
                             [**2191-7-3**]  01:44 PM
                             [**2191-7-3**]  04:29 PM
                             [**2191-7-3**]  09:02 PM
                             [**2191-7-4**]  01:40 AM
                             [**2191-7-4**]  04:43 AM
   Hct
   35
   36.2
   34.1
   33.8
   Cr
   1.0
   Glucose
   127
   Other labs: PT / PTT / INR:13.4/33.3/1.2, Lactic Acid:1.0 mmol/L,
   Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   A/P: 36 yoM w/ a h/o ulcerative colitis and recent diagnosis of
   rectosigmoid adenocarcinoma on neoadjuvant chemo (5FU and XRT x [**4-5**]
   days) presents with profuse BRBPR and lightheadedness.
   1. GI bleed:  BRBPR associated with diarrhea / abdominal cramping type
   pain, per GI very likely associated with necrosis of bowel or tumor but
   further imaging will not be helpful as distinguishing will not change
   management.
   -hct stable around 33.8
   -per surgery tx for hct < 27
   -T&S active, s/p 1 uPRBC
   -on fluids- D5NS 125cc/hr, bolus prn with NS or LR
   -if bleeding worsens plan for colectomy, patient is a surgery patient
   -seems to be relatively stable on conservative management
   -d/w onc team utility in further chemothearpy +/- radiation given risks
   versus colectomy as next step
   -2 large bore IVs
   -NPO for now, sips w/ meds
   -f/u surgery recs and GI recs
   2. Ulcerative colitis: patient on a regimen of [**Doctor First Name **] 360mg daily,
   rifaximin 800mg daily and cromolyn 400mg daily (when he eats),
   -continue home regimen.
   -pain control with dilaudid 0.5mg IV - 1.5mg prn, titrate prn- will
   consider changing to PCA if unable to control pain w/ intermittent
   dosing
   3. GI/FEN: replete lytes prn, NPO for now with maintenance fluids
   -protonix 40mg IV daily
   4. PPX: pneumoboots while in bed
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-7-3**] 03:57 PM
   Indwelling Port (PortaCath) - [**2191-7-3**] 03:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2191-07-05 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 103.6
F - [**2191-7-4**] 02:00 PM
   Plan for total colectomy this AM
   History obtained from Patient, overnight resident
   Allergies:
   History obtained from Patient, overnight residentCortisone
   Confusion/Delir
   Prednisone
   psychosis;
   Adhesive Tape (Topical)
   Rash; skin irri
   Last dose of Antibiotics:
   Ciprofloxacin - [**2191-7-5**] 02:00 AM
   Metronidazole - [**2191-7-5**] 05:53 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2191-7-4**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-7-5**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 37.8
C (100.1
   HR: 100 (83 - 135) bpm
   BP: 100/61(70) {84/40(42) - 112/68(77)} mmHg
   RR: 24 (13 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,724 mL
                                                                  1,274 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  5,624 mL
                                                                  1,274 mL
   Blood products:
   Total out:
                                                                  3,262 mL
                                                                    775 mL
   Urine:
                                                                  2,775 mL
                                                                    775 mL
   NG:
   Stool:
                                                                    487 mL
   Drains:
   Balance:
                                                                  2,462 mL
                                                                    499 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Gen: well-appearing
   Chest: CTAB
   CV: RRR tachycardic
   Abd: diminished bowel sounds, tender on left and RLQ
   Extrem: no edema, no calf tenderness
   Labs / Radiology
   286 K/uL
   10.2 g/dL
   106 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.8 mEq/L
   4 mg/dL
   106 mEq/L
   138 mEq/L
   32.7 %
   4.4 K/uL
        [image002.jpg]
                             [**2191-7-3**]  01:44 PM
                             [**2191-7-3**]  04:29 PM
                             [**2191-7-3**]  09:02 PM
                             [**2191-7-4**]  01:40 AM
                             [**2191-7-4**]  04:43 AM
                             [**2191-7-4**]  12:09 PM
                             [**2191-7-4**]  01:56 PM
                             [**2191-7-5**]  02:41 AM
   WBC
   3.8
   3.3
   4.4
   Hct
   35
   36.2
   34.1
   33.8
   34.3
   32.6
   33.7
   32.7
   Plt
   [**Telephone/Fax (3) 2990**]
   Cr
   1.0
   0.9
   Glucose
   127
   203
   106
   Other labs: PT / PTT / INR:15.5/41.0/1.4, Differential-Neuts:92.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:3.3 g/dL, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   A/P: 36 yoM w/ a h/o ulcerative colitis and recent diagnosis of
   rectosigmoid adenocarcinoma on neoadjuvant chemo (5FU and XRT x [**4-5**]
   days) presents with profuse BRBPR and lightheadedness.
   1. GI bleed:  BRBPR associated with diarrhea / abdominal cramping type
   pain, per GI very likely associated with necrosis of bowel or tumor but
   further imaging will not be helpful as distinguishing will not change
   management.
   -hct stable overnight and BRBPR has reduced
   -per surgery tx for hct < 27
   -T&S active, s/p 1 uPRBC
   -on fluids- D5NS 125cc/hr, bolus prn with NS or LR
   -if bleeding worsens plan for colectomy, patient is a surgery patient
   -seems to be relatively stable on conservative management
   -d/w onc team utility in further chemothearpy +/- radiation given risks
   versus colectomy as next step
   -2 large bore IVs
   -NPO for now, sips w/ meds
   -f/u surgery recs and GI recs
   2. Ulcerative colitis: patient on a regimen of [**Doctor First Name **] 360mg daily,
   rifaximin 800mg daily and cromolyn 400mg daily (when he eats),
   -continue home regimen.
   -pain control with dilaudid 0.5mg IV - 1.5mg prn, titrate prn- will
   consider changing to PCA if unable to control pain w/ intermittent
   dosing
   3. GI/FEN: replete lytes prn, NPO for now with maintenance fluids
   -protonix 40mg IV daily
   4. PPX: pneumoboots while in bed
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2191-7-3**] 03:59 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-07-06 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2191-7-5**] 09:15 PM
 URINE CULTURE - At [**2191-7-5**] 10:00 PM
 FEVER - 103.5
F - [**2191-7-5**] 10:00 PM
   Allergies:
   Cortisone
   Confusion/Delir
   Prednisone
   psychosis;
   Adhesive Tape (Topical)
   Rash; skin irri
   Last dose of Antibiotics:
   Metronidazole - [**2191-7-6**] 12:00 AM
   Ciprofloxacin - [**2191-7-6**] 04:01 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-7-5**] 08:00 PM
   Fentanyl - [**2191-7-6**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation, + ostomy output and hartmanns pouch
   output
   Flowsheet Data as of  [**2191-7-6**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 37.6
C (99.7
   HR: 112 (108 - 132) bpm
   BP: 104/59(69) {101/50(60) - 129/78(86)} mmHg
   RR: 19 (19 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.1 kg (admission): 57 kg
             Total In:
                                                                  4,888 mL
                                                                  1,195 mL
   PO:
             TF:
   IVF:
                                                                  4,888 mL
                                                                  1,195 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    240 mL
   Urine:
                                                                  1,435 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,238 mL
                                                                    955 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: diffuse, mild to moderate , No(t) Obese
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   280 K/uL
   10.1 g/dL
   107 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.0 mEq/L
   7 mg/dL
   104 mEq/L
   136 mEq/L
   33.5 %
   3.0 K/uL
        [image002.jpg]
                             [**2191-7-3**]  04:29 PM
                             [**2191-7-3**]  09:02 PM
                             [**2191-7-4**]  01:40 AM
                             [**2191-7-4**]  04:43 AM
                             [**2191-7-4**]  12:09 PM
                             [**2191-7-4**]  01:56 PM
                             [**2191-7-5**]  02:41 AM
                             [**2191-7-5**]  10:40 AM
                             [**2191-7-5**]  04:38 PM
                             [**2191-7-6**]  04:10 AM
   WBC
   3.8
   3.3
   4.4
   1.8
   3.0
   Hct
   36.2
   34.1
   33.8
   34.3
   32.6
   33.7
   32.7
   35.9
   37.0
   33.5
   Plt
   [**Telephone/Fax (3) 3011**]15
   280
   Cr
   1.0
   0.9
   1.0
   Glucose
   127
   203
   106
   107
   Other labs: PT / PTT / INR:15.5/41.0/1.4, Differential-Neuts:92.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:3.3 g/dL, Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   A/P: 36 yoM w/ a h/o ulcerative colitis and recent diagnosis of
   rectosigmoid adenocarcinoma on neoadjuvant chemo (5FU and XRT x [**4-5**]
   days) presents with profuse BRBPR and lightheadedness.  Plan for
   colectomy but leaving tumor
 colectomy will allow for chemotherapy in
   setting of severe UC.
   1. GI bleed:  s/p total colectomy- sparing rectum and colon CA for
   further neoadjuvand chemo.   Hartmanns pouch and ileostomy.
   -+ ostomy output and rectal ouput
   -hypoactive bowel sounds, no nausea
   -pain moderate, not very well controlled, per surgery can switch to
   dilaudid or morphine pca for more long acting pain control
   -d/w surgery advancing diet- ice chips this a.m. and possible sips
   later today.
   -hct stable, not neutropenic
   -per surgery call stoma nurse [**First Name (Titles) **] [**Last Name (Titles) 2970**] patient
   2. Ulcerative colitis: patient on a regimen of [**Doctor First Name **] 360mg daily,
   rifaximin 800mg daily and cromolyn 400mg daily (when he eats),
   -d/c'd rifaximin
   -GI and Onc following, f/u recs
   3. Fever
   -no clinical evidence of DVT, high fever w/o leukocytosis however s/p
   chemo, not neutropenic, continue to follow ANC
   -on cipro / flagyl
   -CXR and Blood cultures if respikes
   4. GI/FEN: replete lytes prn, NPO for now with maintenance fluids
   -protonix 40mg IV daily
   -bolus 500cc for borderline UOP (40cc/hr)
   5. PPX: pneumoboots while in bed
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2191-7-3**] 03:59 PM
   18 Gauge - [**2191-7-5**] 09:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2191-07-07 07:28:00 Physician Resident Progress Note
Chief Complaint: UC s/p total colectomy
   24 Hour Events:
 FEVER - 101.3
F - [**2191-7-6**] 04:00 PM. Continues to spike fevers
   daily. On cipro/flagyl. Pain improved with morphine PCA.
   Allergies:
   Cortisone
   Confusion/Delir
   Prednisone
   psychosis;
   Adhesive Tape (Topical)
   Rash; skin irri
   Last dose of Antibiotics:
   Metronidazole - [**2191-7-7**] 12:05 AM
   Ciprofloxacin - [**2191-7-7**] 04:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2191-7-6**] 01:15 PM
   Morphine Sulfate - [**2191-7-6**] 05:00 PM
   Pantoprazole (Protonix) - [**2191-7-6**] 08:00 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-7-7**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.4
C (101.1
   HR: 103 (103 - 129) bpm
   BP: 97/57(66) {88/41(51) - 119/68(79)} mmHg
   RR: 28 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.1 kg (admission): 57 kg
             Total In:
                                                                  5,006 mL
                                                                  1,237 mL
   PO:
             TF:
   IVF:
                                                                  5,006 mL
                                                                  1,237 mL
   Blood products:
   Total out:
                                                                  2,335 mL
                                                                    670 mL
   Urine:
                                                                  2,335 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,671 mL
                                                                    567 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, Diastolic)
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   Present ), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: diffuse, mild to moderate , No(t) Obese. Ostomy
   Pink, brown stool
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   270 K/uL
   8.7 g/dL
   123 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.4 mEq/L
   6 mg/dL
   102 mEq/L
   134 mEq/L
   28.6 %
   4.4 K/uL
        [image002.jpg]
                             [**2191-7-3**]  09:02 PM
                             [**2191-7-4**]  01:40 AM
                             [**2191-7-4**]  04:43 AM
                             [**2191-7-4**]  12:09 PM
                             [**2191-7-4**]  01:56 PM
                             [**2191-7-5**]  02:41 AM
                             [**2191-7-5**]  10:40 AM
                             [**2191-7-5**]  04:38 PM
                             [**2191-7-6**]  04:10 AM
                             [**2191-7-7**]  04:40 AM
   WBC
   3.8
   3.3
   4.4
   1.8
   3.0
   4.4
   Hct
   34.1
   33.8
   34.3
   32.6
   33.7
   32.7
   35.9
   37.0
   33.5
   28.6
   Plt
   [**Telephone/Fax (3) 3024**]
   Cr
   1.0
   0.9
   1.0
   0.8
   Glucose
   127
   203
   106
   107
   123
   Other labs: PT / PTT / INR:14.3/37.7/1.2, Differential-Neuts:92.0 %,
   Band:0.0 %, Lymph:6.0 %, Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.0 mmol/L,
   Albumin:3.3 g/dL, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   /P: 36 yoM w/ a h/o ulcerative colitis and recent diagnosis of
   rectosigmoid adenocarcinoma on neoadjuvant chemo (5FU and XRT x [**4-5**]
   days) presents with profuse BRBPR and lightheadedness.  Plan for
   colectomy but leaving tumor
 colectomy will allow for chemotherapy in
   setting of severe UC.
   .
   1. GI bleed:  s/p total colectomy- sparing rectum and colon CA for
   further neoadjuvand chemo.   Hartmanns pouch and ileostomy.
   -+ ostomy output and rectal ouput
   -hypoactive bowel sounds, no nausea
   -pain moderate, not very well controlled, per surgery switched to
   morphine pca for more long acting pain control
   -d/w surgery advancing diet- ice chips this a.m. and possible sips
   later today.
   -hct stable, not neutropenic
   .
   2. Ulcerative colitis: patient on a regimen of [**Doctor First Name **] 360mg daily,
   rifaximin 800mg daily and cromolyn 400mg daily (when he eats),
   -d/c'd rifaximin
   -GI and Onc following, f/u recs
   .
   3. Fever
   -no clinical evidence of DVT, high fever w/o leukocytosis however s/p
   chemo, not neutropenic, continue to follow ANC
   -on cipro / flagyl
   -CXR and Blood cultures if respikes
   - ? possible colitis in remaining rectum as source of fever
    .
   4. GI/FEN: replete lytes prn, NPO for now with maintenance fluids
   -protonix 40mg IV daily
   -bolus 500cc for borderline UOP (40cc/hr)
   .
   5. PPX: pneumoboots while in bed
   .
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:  well-controlled
   Lines:
   Indwelling Port (PortaCath) - [**2191-7-3**] 03:59 PM
   18 Gauge - [**2191-7-5**] 09:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Transfer to floor

2191-07-08 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2191-7-7**] 11:00 AM
 FEVER - 101.6
F - [**2191-7-7**] 08:00 PM
 CALLED OUT
   Allergies:
   Cortisone
   Confusion/Delir
   Prednisone
   psychosis;
   Adhesive Tape (Topical)
   Rash; skin irri
   Last dose of Antibiotics:
   Metronidazole - [**2191-7-7**] 11:26 PM
   Ciprofloxacin - [**2191-7-8**] 04:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-7-7**] 03:05 PM
   Pantoprazole (Protonix) - [**2191-7-7**] 08:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-7-8**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.5
C (99.5
   HR: 102 (97 - 118) bpm
   BP: 99/57(67) {99/38(50) - 125/76(84)} mmHg
   RR: 25 (20 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.1 kg (admission): 57 kg
             Total In:
                                                                  3,816 mL
                                                                    943 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                  3,786 mL
                                                                    943 mL
   Blood products:
   Total out:
                                                                  2,507 mL
                                                                    858 mL
   Urine:
                                                                  2,487 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,309 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   274 K/uL
   8.2 g/dL
   113 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.4 mEq/L
   5 mg/dL
   104 mEq/L
   136 mEq/L
   26.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2191-7-4**]  04:43 AM
                             [**2191-7-4**]  12:09 PM
                             [**2191-7-4**]  01:56 PM
                             [**2191-7-5**]  02:41 AM
                             [**2191-7-5**]  10:40 AM
                             [**2191-7-5**]  04:38 PM
                             [**2191-7-6**]  04:10 AM
                             [**2191-7-7**]  04:40 AM
                             [**2191-7-7**]  02:42 PM
                             [**2191-7-8**]  03:00 AM
   WBC
   3.8
   3.3
   4.4
   1.8
   3.0
   4.4
   5.1
   Hct
   34.3
   32.6
   33.7
   32.7
   35.9
   37.0
   33.5
   28.6
   27.9
   26.5
   Plt
   [**Telephone/Fax (3) 3024**]
   274
   Cr
   1.0
   0.9
   1.0
   0.8
   0.8
   Glucose
   127
   203
   106
   107
   123
   113
   Other labs: PT / PTT / INR:14.3/37.7/1.2, Differential-Neuts:79.0 %,
   Band:0.0 %, Lymph:12.4 %, Mono:6.1 %, Eos:2.4 %, Lactic Acid:1.0
   mmol/L, Albumin:3.3 g/dL, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   36 yoM w/ a h/o ulcerative colitis and recent diagnosis of rectosigmoid
   adenocarcinoma on neoadjuvant chemo (5FU and XRT x 3-4 days) presents
   with profuse BRBPR and lightheadedness.  Plan for colectomy but leaving
   tumor
 colectomy will allow for chemotherapy in setting of severe UC.
   .
   1. GI bleed:  s/p total colectomy- sparing rectum and colon CA for
   further neoadjuvand chemo.   Hartmanns pouch and ileostomy.
   -+ ostomy output and rectal ouput
   -hypoactive bowel sounds, no nausea
   - changed to MS contin and morhpine sulfate
   - f/u pain consult recs
   -will not advance diet until ostomy output increases
   -hct stable, not neutropenic
   .
   2. Ulcerative colitis: patient on a regimen of [**Doctor First Name **] 360mg daily,
   rifaximin 800mg daily and cromolyn 400mg daily (when he eats),
   -d/c'd rifaximin
   -GI and Onc following, f/u recs
   3. Fever
   -no clinical evidence of DVT, high fever w/o leukocytosis however s/p
   chemo, not neutropenic, continue to follow ANC
   -on cipro / flagyl
   -CXR and Blood cultures if respikes
   - ? possible colitis in remaining rectum as source of fever
    .
   4. GI/FEN: replete lytes prn, NPO for now with maintenance fluids
   -protonix 40mg IV daily
   -bolus 500cc for borderline UOP (40cc/hr)
   .
   5. PPX: pneumoboots while in bed
   .
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2191-7-3**] 03:59 PM
   20 Gauge - [**2191-7-7**] 01:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: